US04117128
3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-(2-fluorophenyl)benzofuran
Substitution of 2-(2-fluorophenyl)benzofuran in the procedure of Example 1 for 2-phenylbenzofuran followed by demethylation of the 2-(2-fluorophenyl)-3-(4-methoxyphenylsulfonyl)benzofuran thus formed and reaction of the resulting product with 3-diethylaminopropyl chloride as described therein gives the title compound.

reactant | 2-(2-fluorophenyl)benzofuran | FC1=C(C=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H9FO
reactant | 2-phenylbenzofuran | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C14H10O
reactant | 2-(2-fluorophenyl)-3-(4-methoxyphenylsulfonyl)benzofuran | FC1=C(C=CC=C1)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OC)C=CC=C2 | C21H15FO4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-(2-fluorophenyl)benzofuran | C(C)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=C(C=CC=C2)F)CC | C27H28FNO4S
